US05508426
Step 1: Preparation of 4,4,4-trifluoro-1-[4-(chloro)phenyl]-butane-1,3-dione
Ethyl trifluoroacetate (23.52 g, 166 mmol) was placed in a 500 mL three-necked round bottom flask, and dissolved in methyl tert-butyl ether (75 mL). To the stirred solution was added 25 weight % sodium methoxide (40 mL, 177 mmol) via an addition funnel over a 2 minute period. Next 4'-chloroacetophenone (23.21 g, 150 mmol) was dissolved in methyl tert-butyl ether (20 mL), and added to the reaction dropwise over 5 minutes. After stirring overnight (15.75 hours), 3N HCl (70 mL) was added. The organic layer was collected, washed with brine (75 mL), dried over MgSO4, filtered, and concentrated in vacuo to give a 35.09 g of yellow-orange solid. The solid was recrystallized from iso-octane to give 31.96 g, 85% of the dione, mp 66°-67° C.

reactant | Ethyl trifluoroacetate | 166 mmol, 23.52 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | 177 mmol, 40 mL | C[O-].[Na+]
reactant | 4'-chloroacetophenone | 150 mmol, 23.21 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | HCl | 3N, 70 mL | Cl | ClH
solvent | methyl tert-butyl ether | 75 mL | C(C)(C)(C)OC | C5H12O
solvent | methyl tert-butyl ether | 20 mL | C(C)(C)(C)OC | C5H12O
product | 4,4,4-trifluoro-1-[4-(chloro)phenyl]-butane-1,3-dione | 35.09 g | FC(C(CC(=O)C1=CC=C(C=C1)Cl)=O)(F)F | C10H6ClF3O2
